US06187952B1
Preparation of 4-fluorobenzoyl chloride
10 g of azobis(isobutyronitrile) are added, with stirring, to 620 g of 4-fluorobenzaldehyde (5 mol tel quel, purity >99 GC[a/a]) under protective gas in a 1 l four-necked flask. The mixture is then heated to an internal temperature of 60° C. and, over the course of 7.5 hours, a total of 354 g of chlorine are introduced. The chlorine is added in an amount of 15 liters per hour. Unreacted chlorine is then blown out with nitrogen, and the reaction mixture is cooled to room temperature. The progress of the reaction is monitored using gas-chromatographic analysis (GC).

reactant | azobis(isobutyronitrile) | 10 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 4-fluorobenzaldehyde | 620 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | chlorine | 354 g | ClCl | Cl2
product | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
